US06455507B1
As described in General Procedure III, 2-bromo-5,6-dichlorobenzimidazole (0.52 g, 2.0 mmol), N,O-bis(trimethylsilyl) acetamide (Aldrich, 0.53 ml, 2.2 mmol), and 1,2-dichloroethane (Aldrich Sure Seal, 20 ml) were combined and refluxed under nitrogen for 0.25 h. The solution was cooled to 50° C. and trimethylsilyl trifluoromethanesulfonate (Aldrich, 0.42 ml, 2.2 mmol) was added. Immediately, 0.51 g (2.0 mmol) solid 1,3,4-tri-O-acetyl-2-deoxy-D-erythro-pentopyranose (as prepared and described by R. Allerton and W. G. Overend in J. Chem. Soc. 1951, 1480-1484) was added. The solution was stirred under nitrogen at 50° C. for 0.5 h, then poured into 7% aqueous sodium bicarbonate and extracted with dichloromethane. The organic layer was dried with magnesium sulfate (anhyd), filtered, and evaporated. The crude residue was purified on a silica gel column eluting with a step gradient of 0.1% to 1% methanol in dichloromethane to give 0.47 g (1.0 mmol, 52% yield) 2-bromo-5,6-dichloro-1-(3,4-di-O-acetyl-2-deoxy-alpha-D-erythro-pentopyranosyl)-1H-benzimidazole; 1H NMR (CD3OD) δ8.11 (s, 1H), 7.80 (s, 1H), 6.11-6.07 (dd, 1H), 5.37-5.32 (m, 2H), 4.24-4.19 (dd, 1H), 4.05-4.00 (dd, 1H), 2.68-2.56 (q, 1H), 2.32 (s, 3H), 2.20-2.15 (m, 1H), 2.01 (s, 3H); and 0.13 g (0.28 mmol, 14% yield) 2-bromo-5,6-dichloro-1-(3,4-di-O-acetyl-2-deoxy-beta-D-erythro-pentopyranosyly)-1H-benzimidazole; 1H NMR (CD3OD) δ8.02 (s, 1H), 7.76 (s, 1H), 6.13-6.10 (d, 1H), 5.62 (bs, 1H), 5.29-5.23 (m, 1H), 4.15-4.03 (m, 2H), 2.76-2.70 (t, 1H), 2.19 (s, 3H), 2.15-2.1 (m, 1H), 2.00 (s, 3H).

reactant | 2-bromo-5,6-dichlorobenzimidazole | 2.0 mmol, 0.52 g | BrC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3BrCl2N2
reactant | N,O-bis(trimethylsilyl) acetamide | 2.2 mmol, 0.53 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl trifluoromethanesulfonate | 2.2 mmol, 0.42 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,3,4-tri-O-acetyl-2-deoxy-D-erythro-pentopyranose | C(C)(=O)OC1C[C@H](OC(C)=O)[C@H](OC(C)=O)CO1 | C11H16O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 2-bromo-5,6-dichloro-1-(3,4-di-O-acetyl-2-deoxy-alpha-D-erythro-pentopyranosyl)-1H-benzimidazole | 1.0 mmol, 0.47 g, 52% yield | BrC1=NC2=C(N1[C@@H]1C[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)Cl)Cl | C16H15BrCl2N2O5
